US07964602B2
1-(3-bromo-2-pyridinyl)-4-piperidinol (D34)
3-Bromo-2-chloropyridine (5.95 g, 30.92 mmol), 4-hydroxypiperidine (5 g, 49.43 mmol) and potassium carbonate (15.03 g, 108.75 mmol) were combined in DMF (200 ml) and heated to 120° C. overnight. The solvent was removed and the residues partitioned between EtOAc and water. The aqueous layer was re-extracted with EtOAc and the combined organics washed with water, dried and concentrated. The crude product was purified by column chromatography. Elution with 20-75% EtOAc/pet. ether yielded the product as a yellow oil (5.1 g). δH (CDCl3, 400 MHz): 1.60-1.61 (1H, m), 1.68-1.79 (2H, m), 2.01-2.07 (2H, m), 2.98-3.04 (2H, m), 3.64-3.69 (2H, m), 3.86-3.91 (1H, m), 6.74-6.77 (1H, m), 7.77-7.79 (1H, dd), 8.21-8.22 (1H, m).

reactant | 3-Bromo-2-chloropyridine | 30.92 mmol, 5.95 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | 4-hydroxypiperidine | 49.43 mmol, 5 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 108.75 mmol, 15.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-(3-bromo-2-pyridinyl)-4-piperidinol | 5.1 g | BrC=1C(=NC=CC1)N1CCC(CC1)O | C10H13BrN2O
